Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Keflex / atorvastatin / 
pravastatin
 
Attending: ___
 
Chief Complaint:
___ placement
 
Major Surgical or Invasive Procedure:
___ placement ___
 
History of Present Illness:
___ w ALS presents for observation after successful 
uncomplicated ___ placement. Pt tolerated well. Has minimal pain 
afterwards at site of ___. 
Is in her USOH. No f/c/n/v/d/CP/SOB/rash. 10 pt ROS otherwise 
negative. 
 
Past Medical History:
ALS
s/p parathyroidectomy
IBS
depression
adrenal adenoma--not being worked up per patient per chart
IBS
tonsillectomy
diverticulosis
 
Social History:
___
Family History:
no neurologic dz
 
Physical Exam:
afeb 116/71 84 18 95% 1L
pleasant, NAD, clear speech with some minimal slurring
NCAT, MMM
RRR
CTAB
___ site c/d/I, minimally tender to palpation
wwp, trace ___

 
___ Results:
none

 
Brief Hospital Course:
___ w/ALS and abnormal VFSS presents for monitoring after ___ 
placement.

# ___ placement / nutrition - went without difficulty and TF 
were started. Nutrition recommended 5 cans Jevity 1.2 daily 
(1440 kcals, 67g protein) which would account for 75% of her 
nutritional needs per day. Should po intake decline and weight 
continue to drop, increase feeds to provide 100% nutrition 
needs: 5 cans Jevity 1.5 daily (1800 kcals, 77g protein). 
Monitoring weights will be critical. We appreciate input of 
speech and swallow service who indicated recent swallowing study 
that showed no aspiration, a repeat study was not needed.

# Respiratory status - at baseline, pt uses CPAP at night and 
then CPAP intermittently during day. After procedure was 91-92% 
on RA. Felt comfortable. Recommended that she have a home O2 
study as her respiratory status is obviously marginal and might 
require home O2 continuously moving forward.

# Goals of care - ___ is aware of her fatal diagnosis and is 
hoping to live independently as long as she can do so. DNR/DNI.# 
ALS:
- home riluzole not available in house and pt does not have on 
her

CONTACT: sister ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO QHS 
2. Pravastatin 20 mg PO QPM 
3. Rilutek (riluzole) 50 mg oral BID 
4. Cal-Citrate (calcium citrate-vitamin D2) unknown mg oral 
unknown 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Sertraline 25mg po qam x1 week, then 50mg po qam

 
Discharge Medications:
1. LORazepam 1 mg PO QHS 
2. Pravastatin 20 mg PO QPM 
3. Rilutek (riluzole) 50 mg oral BID 
4. Sertraline 25 mg PO BREAKFAST 
5. Cal-Citrate (calcium citrate-vitamin D2) unknown  ORAL 
Frequency is Unknown 
6. Vitamin D 800 UNIT PO DAILY 

Wrote Rx for tube feeds
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ALS, ___ placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
___, it was a pleasure to care for you. The ___ was placed 
without difficulty. We have set up tube feeds for home that will 
account for three-quarters of your nutritional needs. If your 
ability to eat worsens, the tube feeds can be increased.

In terms of your breathing, please make sure you continue to 
take your cpap at night and during day. I recommended the home 
nurse check your oxygen as you are likely to need oxygen during 
day soon.

 
 
Followup Instructions:
___